US07361763B2
A Personal Chemistry® microwave vial (2-5 ml size) was charged with 5-bromo-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (98 mg, 0.33 mmol), 2-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (148 mg, 0.400 mmol), 6.5 mg (9.3 μmol, 5 mol %) of dichlorobis(triphenylphosphino)palladium(II), 1 ml of acetonitrile and 1 ml of a 2 M aqueous solution of sodium carbonate. The vial was sealed, evacuated and purged three times with nitrogen, then irradiated in a Personal Chemistry® microwave reactor with a temperature setting of 150° C. for 30 minutes. Ethyl acetate (50 ml) was added, and the layers were separated. The aqueous fraction was extracted three times with ethyl acetate, and the combined organic fractions were washed with brine, dried (Na2SO4), filtered and concentrated. Purification by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes gave 75 mg (50%) of 5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine as a light yellow solid. 1H-NMR (d6-DMSO) δ=12.12 (br.s, 1H), 8.51 (d, 1H), 8.11 (d, 1H), 7.70 (d, 1H), 7.57 (dd, 1H), 7.38 (d, 2H), 7.27 (t, 1H), 7.25(d, 1H), 7.18 (dd, 1H), 7.11 (m, 2H), 7.02 (t, 1H), 6.95 (d, 2H), 5.03 (s, 2H), 3.85 (s, 3H), 3.82 (s, 3H), 3.75 (s, 3H); MS m/z: 467 [MH]+.

reactant | 5-bromo-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.33 mmol, 98 mg | BrC=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C14H11BrN2O
reactant | 2-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.400 mmol, 148 mg | COC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C21H27BO5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphino)palladium(II) | 9.3 μmol, 6.5 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 75 mg, 50% | COC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C29H26N2O4
